US03951988
Boiling a solution of 8.8 g of 3-nitrobenzylideneacetoacetic acid ethyl ester and 4.6 g of 2-acetylmethylidenepyrrolidine in 50 ml of ethanol for 6 hours yields 5-methyl-7-(3-nitrophenyl)-8-acetyl-1,2,3,7-tetrahydroindolizine-6-carboxylic acid ethyl ester of melting point 161° (isopropanol).

reactant | 3-nitrobenzylideneacetoacetic acid ethyl ester | 8.8 g | C(C)OC(CC(=O)C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C13H13NO5
reactant | 2-acetylmethylidenepyrrolidine | 4.6 g | C(C)(=O)C=C1NCCC1 | C7H11NO
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 5-methyl-7-(3-nitrophenyl)-8-acetyl-1,2,3,7-tetrahydroindolizine-6-carboxylic acid ethyl ester | Yield: 72% | C(C)OC(=O)C1=C(N2CCCC2=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(C)=O)C | C20H22N2O5
